US08580841B2
Step E: Preparation of 3-Cyano-5-(trifluoromethoxy)benzoyl Chloride.
Oxalyl chloride (2.0 M in DCM, 0.636 mL, 1.272 mmol) was added to neat 3-cyano-5-(trifluoromethoxy)benzoic acid (98 mg, 0.424 mmol) and one drop of DMF was added. The reaction mixture was stirred at room temperature for 30 min and then concentrated under reduced pressure.

reactant | Oxalyl chloride | 1.272 mmol, 2.0 M, 0.636 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 3-cyano-5-(trifluoromethoxy)benzoic acid | 0.424 mmol, 98 mg | C(#N)C=1C=C(C(=O)O)C=C(C1)OC(F)(F)F | C9H4F3NO3
catalyst | DMF | one drop | CN(C)C=O | C3H7NO
product | 3-Cyano-5-(trifluoromethoxy)benzoyl Chloride | C(#N)C=1C=C(C(=O)Cl)C=C(C1)OC(F)(F)F | C9H3ClF3NO2
